US09233979B2
To a 50 mL round bottom flask charged with (R)-1-(3-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (380 mg, 0.705 mmol) in DCM (10 ml) was added pyridine (1 ml) followed by methyl chloroformate (65 μl, 0.847 mmol). The flask was capped and the contents stirred at room temperature for 16 h. An additional aliquot of methyl chloroformate (65 μL, 0.847 mmol) was added to push the reaction to completion. The volatiles were removed in vacuo, the resulting residue redissolved in DCM and washed with saturated copper sulfate solution (2×10 mL). The organics were separated using a phase separator cartridge and concentrated. The resulting residue was purified by flash column chromatography on silica gel (ISCO; 80 g prepacked) eluting with ethyl acetate/hexanes to give (R)-methyl (6-(3-(1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate (371 mg, 0.622 mmol, 88%) as a white solid. MS ESI calc'd. For C36H33N6O3 [M+H]+ 597. found 597.

reactant | (R)-1-(3-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.705 mmol, 380 mg | NC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C34H30N6O
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 0.847 mmol, 65 μl | ClC(=O)OC | C2H3ClO2
reactant | methyl chloroformate | 0.847 mmol, 65 μL | ClC(=O)OC | C2H3ClO2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (R)-methyl (6-(3-(1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate | 0.622 mmol, 371 mg, 88% | C1(=CC=CC=C1)[C@@H](C)NC(NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(OC)=O)=O | C36H32N6O3
